US07250528B2
Synthesis of 1-methoxy-2,6-dimethyl-1H-indene
Anhydrous FeCl3 (2.0 g, 12.3 mmol.) was added to a solution of (2E)-2-methyl-3-(4-methylphenyl) -2-propenal (5.0 g, 31.3 mmol.) and trimethyl orthoformate (36.4 g, 34.3 mmol.) in dichloromethane (35 ml). The dark red solution was stirred for one hour, then diluted with 100 ml of diethyl ether and washed with water (3×75 ml). The organic phase was dried (MgSO4), filtered and concentrated. Kugelrohr distillation (65-80° C., 20 mTorr) yielded 3.2 g (18.4 mmol., 59% yield) of the title compound.

reactant | (2E)-2-methyl-3-(4-methylphenyl) -2-propenal | 31.3 mmol, 5.0 g | C/C(/C=O)=C\C1=CC=C(C=C1)C | C11H12O
reactant | trimethyl orthoformate | 34.3 mmol, 36.4 g | C(OC)(OC)OC | C4H10O3
solvent | dichloromethane | 35 ml | ClCCl | CH2Cl2
solvent | diethyl ether | 100 ml | C(C)OCC | C4H10O
product | 1-methoxy-2,6-dimethyl-1H-indene | 59% yield | COC1C(=CC2=CC=C(C=C12)C)C | C12H14O
